US07074798B2
a) 4-[7-(2-Butynyl)-3-carboxymethyl-1-(2-phenylethyl)-2,6-dioxo-1,2,6,7-tetrahydropurin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
A mixture of 4-[7-(2-butynyl)-3-ethoxycarbonylmethyl-1-(2-phenylethyl)-2,6-dioxo-1,2,6,7-tetrahydropurin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (190 mg), ethanol (3 ml), and 1N aqueous sodium hydroxide solution (0.5 ml) was stirred with heating in an oil bath of 50° C. for 2 hours. 1N aqueous hydrochloric acid solution (0.55 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate and water. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and crystallized from ethyl acetate-hexane to give 166 mg of the title compound.

reactant | 4-[7-(2-butynyl)-3-ethoxycarbonylmethyl-1-(2-phenylethyl)-2,6-dioxo-1,2,6,7-tetrahydropurin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 190 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC#CC)=O)CCC1=CC=CC=C1)=O)CC(=O)OCC | C30H38N6O6
reactant | sodium hydroxide | 1N, 0.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 0.55 ml | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-[7-(2-Butynyl)-3-carboxymethyl-1-(2-phenylethyl)-2,6-dioxo-1,2,6,7-tetrahydropurin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 166 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC#CC)=O)CCC1=CC=CC=C1)=O)CC(=O)O | C28H34N6O6
